US08791132B2
2,3,8-Trimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (214 mg, 1 mmol) was dissolved in DMF (3 mL) and NaH (80 mg, 3.33 mmol) was added portionwise at 0° C. The reaction mixture was stirred at 0° C. for 15 min. The solution of 3-(2-methyloxiran-2-yl)pyridine (270 mg, 2 mmol) in DMF (2 mL) was added dropwise at 0° C. and the reaction mixture was stirred at 0° C. for 10 min and at RT for 16 h. Completion of reaction was monitored by LCMS. The reaction mixture was poured onto crushed ice slowly and extracted with EtOAc (3×30 mL). The organic layer was washed with water (7×40 mL), dried over anhydrous sodium sulfate and concentrated under vacuum to obtain the crude product that was purified by reverse HPLC to give 23 mg of 2-(pyridin-3-yl)-1-(2,3,8-trimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)propan-2-ol. 1H NMR (CDCl3, freebase) δ (ppm): 8.73 (s, 1H), 8.47 (d, 1H), 7.2 (d, 1H), 7.11 (s, 1H), 7.04 (d, 2H), 6.90 (d, 1H), 4.15 (dd, 2H), 3.78 (dd, 1H), 3.6 (dd, 1H), 2.9 (m, 2H), 2.7 (dd, 1H), 2.43 (s, 3H), 2.4 (s, 3H), 1.6 (s, 3H), 1.14 (d, 3H). Separation by chiral HPLC provided diastereomers II-146a-d.

reactant | 2,3,8-Trimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1 mmol, 214 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1C | C14H18N2
reactant | NaH | 3.33 mmol, 80 mg | [H-].[Na+]
reactant | 3-(2-methyloxiran-2-yl)pyridine | 2 mmol, 270 mg | CC1(OC1)C=1C=NC=CC1 | C8H9NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(pyridin-3-yl)-1-(2,3,8-trimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)propan-2-ol | 23 mg | N1=CC(=CC=C1)C(CN1C2=C(C=3C=C(C=CC13)C)CN(C(C2)C)C)(C)O | C22H27N3O
